US07989461B2
Preparation of 6-methyl-5-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-ylamino)isoquinolin-1(2H)-one
6-(2-chloropyridin-3-yl)-N-methylpyrimidin-4-amine (897 mg, 4.1 mmol), 5-amino-6-methylisoquinolin-1(2H)-one (779 mg, 4.5 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino) biphenyl (128 mg, 0.33 mmol) and tris(dibenzylideneacetone) dipalladium (0) (149 mg, 0.16 mmol) were added to a microwave tube. The tube was capped and flushed with nitrogen, and then lithium bis(trimethylsilyl)amide (16.9 mL, 1.0 M solution in THF) was added. The mixture was heated in a microwave reactor at 150° C. for 15 min. The reaction mixture was quenched with saturated aqueous sodium bicarbonate then extracted with DCM. The DCM extracts were concentrated and purified by flash chromatography (0-10% 2 M ammonia in methanol) to give the title compound (380 mg, 26%). MS (M+H)+ 359.

reactant | 6-(2-chloropyridin-3-yl)-N-methylpyrimidin-4-amine | 4.1 mmol, 897 mg | ClC1=NC=CC=C1C1=CC(=NC=N1)NC | C10H9ClN4
reactant | 5-amino-6-methylisoquinolin-1(2H)-one | 4.5 mmol, 779 mg | NC1=C2C=CNC(C2=CC=C1C)=O | C10H10N2O
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino) biphenyl | 0.33 mmol, 128 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.16 mmol, 149 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 6-methyl-5-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-ylamino)isoquinolin-1(2H)-one | 380 mg, 26% | CC=1C(=C2C=CNC(C2=CC1)=O)NC1=NC=CC=C1C1=NC=NC(=C1)NC | C20H18N6O
